US06600046B2
Preparation of 4-(methylthio)phenylacetonitrile
Under an atmosphere of nitrogen, 25.9 g (150 mmol) of 4-(methylthio)benzyl chloride were dissolved in 45.5 g of toluene. 9.29 g (180 mmol) of sodium cyanide, 0.92 g (2.9 mmol) of tetrabutylammonium chloride and 14.4 g of water were then added. The mixture was stirred at 80-85° C. for 2 h. The reaction mixture was admixed with 30 g of toluene and 45 g of water, the aqueous phase was decanted off and the organic phase was concentrated. This gave a residue of 24.6 g of the title product in a yield of >95% (according to NMR) in the form of a pink solid.

reactant | 4-(methylthio)benzyl chloride | 150 mmol, 25.9 g | CSC1=CC=C(CCl)C=C1 | C8H9ClS
reactant | sodium cyanide | 180 mmol, 9.29 g | [C-]#N.[Na+]
reactant | water | 14.4 g | O | H2O
reactant | water | 45 g | O | H2O
solvent | toluene | 45.5 g | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium chloride | 2.9 mmol, 0.92 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 30 g | C1(=CC=CC=C1)C | C7H8
product | 4-(methylthio)phenylacetonitrile | 24.6 g, yield of >95% | CSC1=CC=C(C=C1)CC#N | C9H9NS
